US04454145
2,2,11,11-Tetramethyl-1,12-dodecanediol dinicotinate
53.10 Grams (0.3 mole) of nicotinoyl chloride hydrochloride in 150 ml of anhydrous pyridine were reacted with 12.90 grams (0.05 mole) of 2,2,11,11-tetramethyl-1,12-dodecanediol according to the procedure of the above example. 11.8 Grams of the title product, recrystallized from an 80/20 (v/v) mixture of ethanol/water, were obtained, having m.p. 66°-67° C. Yield: 50.5% of theoretical.

reactant | nicotinoyl chloride hydrochloride | 0.3 mole | Cl.C(C1=CN=CC=C1)(=O)Cl
reactant | 2,2,11,11-tetramethyl-1,12-dodecanediol | 0.05 mole, 12.90 grams | CC(CO)(CCCCCCCCC(CO)(C)C)C | C16H34O2
solvent | pyridine | 150 ml | N1=CC=CC=C1 | C5H5N
product | 2,2,11,11-Tetramethyl-1,12-dodecanediol dinicotinate | Yield: 50.5% | C(C1=CN=CC=C1)(=O)OCC(CCCCCCCCC(COC(C1=CN=CC=C1)=O)(C)C)(C)C | C28H40N2O4
